US03944560
3-Acetoxy-3-(N-acetylisopropylaminomethyl)-7-methanesulfonamido-3,4-dihydro-2H-1,5-benzodioxepin (4.2 g., 10 millimole) in 20 ml. methanol is treated with 2 g. (50 millimoles) of sodium hydroxide in 20 ml. of methanol. The mixture is refluxed for 3 hours, cooled, and diluted with 400 mls. of water, neutralized with acid and extracted with ether. The combined ethereal solutions are washed with water, dried over anhydrous sodium sulfate, and evaporated to give 3-hydroxy-3-isopropylaminomethyl-7-methanesulfonamido-3,4-dihydro-2H-1,5-benzodioxepin.

reactant | 3-Acetoxy-3-(N-acetylisopropylaminomethyl)-7-methanesulfonamido-3,4-dihydro-2H-1,5-benzodioxepin | 10 millimole, 4.2 g | C(C)(=O)OC1(COC2=C(OC1)C=CC(=C2)NS(=O)(=O)C)CN(C(C)=O)C(C)C | C18H26N2O7S
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 50 millimoles | [OH-].[Na+]
solvent | water | O | H2O
product | 3-hydroxy-3-isopropylaminomethyl-7-methanesulfonamido-3,4-dihydro-2H-1,5-benzodioxepin | OC1(COC2=C(OC1)C=CC(=C2)NS(=O)(=O)C)CNC(C)C | C14H22N2O5S
